Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Imitrex
 
Attending: ___
 
Chief Complaint:
Gait instability, 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ right-handed woman, past medical
history of HIV as well as hepatitis B and C noncompliant on her
medications, IVDU, as well as HIV peripheral neuropathy, who
presents from ___ facility with "rocking on a boat"  sensation
and difficulty walking.

For the past month she has been using fentanyl daily.  Her last
use was 5 days prior to presentation.  She has been undergoing
significant withdrawal in the last 5 days, including but not
limited to fevers, chills, sweats, nausea, decreased appetite,
diarrhea, as well as an episode of emesis.  She went to detox 
one
day prior to presentation, she was seen by the doctor at detox
this morning who recommended she go to the hospital for medical
clearance.  She went to the outside hospital was subsequently
transferred to ___.

She has been unable to walk for the past 8 days.  She feels like
this was a sudden onset, and has been worsening each day.  She
feels that she is falling to the left and has had several falls
this past week.

Over the past 2 days she has had a sensation of rocking on the
boat.  She initially has difficulty determining whether this is
constant, but she feels that it has been constant over the last 
2
days.  She describes that her falls and gait has subsequently
been worse the last 2 days.

Of note, 3 weeks ago she had a pneumonia and she woke up with
left hand weakness at wrist and fingers.  She today she was seen
by her outside hospital neurologist who felt it was a radial
nerve palsy.  Her hand has slowly started to improve and she is
able to wink wiggle her fingers, but she is unable to lift her
wrist at this time.

Per chart review, in ___ she was seen by ___ for
distal sensory neuropathy. She was last seen by infectious
disease in ___ but then was transferred to her last her last
viral load was in ___ with less than 50 copies.  Her last CD4
count was in ___ and was 664.  Her lowest CD4 count was 193. 
She previously has been noncompliant on her HIV medication.

 
Past Medical History:
- HIV dx'd in ___ nadir 193 ___ CD4 742 (___)/ VL 
< 50 (___)
- Hepatitis C, last VL 5 million copies (___) 
- Hepatitis B exposure/Surface Ag negative
- Peripheral neuropathy
- Kidney failure ___ rhabdomyolysis 
- Polysubstance abuse 
- H/o migraines, not active
- H/o seizure ___ y ago 
- H/o ___ cyst  
- H/o LLE abscess/cellulitis- grew S. milleri  
.
PSH:
- s/p TAH/BSO in her early ___ for intractable PID
 
Social History:
___
Family History:
MI: Brother (age ___, not drug induced), Grandfather (unknown 
age)
___ - father, passed in ___
Mother - living, healthy
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General: Awake, cooperative, NAD. Not tremulous or agitated. 
HEENT: NC/AT, no scleral icterus, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits.
Pulmonary: Breathing comfortably on room air
Cardiac: RRR
Abdomen: soft.
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty, but unable to name ___ through
___ backwards). Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  Left pupil 3 to 2mm and brisk; Right pupil 
2->1
mm. EOMI without nystagmus. Normal saccades. VFF to
confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch.  Decreased sensation to
pinprick below the midshin bilaterally.  Decreased vibratory
sensation at the toes 5 seconds bilaterally.  Proprioception
intact to large but not small movements of the great toe.  No
extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  1  1    1    2   0
R  1  1    1    2   0
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.  Left HKS ataxia, R HKS normal.

-Gait: Good initiation. Moderate-based, normal stride and arm
swing.  Unsteady gait with falling to both sides.  Unable to do
tandem.  Romberg positive.
DISCHARGE PHYSICAL EXAMINATION: 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or 
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive to conversation. Language is 
fluent with intact repetition and comprehension. Normal prosody. 
There were no paraphasic errors. Pt was able to name both high 
and low frequency objects. Able to follow both midline and 
appendicular commands. There was no evidence of apraxia or 
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI with sacchadic 
intrusions noted. Horizontal nystagmus on horizontal gaze 
bilaterally, slows down and less prominent than yesterday's 
exam. No significant square wave jerks on primary gaze anymore. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Mild L pronator drift w/ 
subtle rebound. No adventitious movements, such as tremor, 
noted. No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     4   5
R  5    ___   ___  5   5    5  5     5     4+  5

-Sensory: Proprioception largely intact in upper and lower 
extremities, likely her prior deficits were largely inattention. 
Decreased vibratory sense at great toes b/l to 6 seconds. Mild 
decrease in pin prick in bilateral feet to the level of mid shin 
and on the dorsal aspect of the left thumb (which corresponds to 
her radial palsy) .  

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    1   0
R  2  2    2    1   0
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, difficulty with FNF on L in 
setting of L hand weakness. Improved HKS  bilaterally with 
minimal ataxia. 

-Gait: Able to stand independently, moderate base, with unstable 
posture. Truncal ataxia when sitting on edge of bed with eyes 
closed has improved, only falls backwards very slowly. 
Instability. 

 
Pertinent Results:
___ 09:13PM BLOOD WBC-7.4 RBC-3.97 Hgb-12.5 Hct-38.6 MCV-97 
MCH-31.5 MCHC-32.4 RDW-13.3 RDWSD-48.2* Plt ___
___ 05:15AM BLOOD ___ PTT-27.1 ___
___ 09:13PM BLOOD Glucose-82 UreaN-21* Creat-1.1 Na-137 
K-4.3 Cl-97 HCO3-25 AnGap-19
___ 09:13PM BLOOD ALT-13 AST-22 CK(CPK)-40 AlkPhos-70 
TotBili-0.3
___ 05:15AM BLOOD GGT-13
___ 05:15AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 09:13PM BLOOD cTropnT-<0.01
___ 09:13PM BLOOD Albumin-3.9 Calcium-9.4 Phos-4.6* Mg-1.9
___ 05:15AM BLOOD Triglyc-179* HDL-36 CHOL/HD-4.9 
LDLcalc-103
___ 05:15AM BLOOD TSH-2.1
___ 05:15AM BLOOD CRP-8.7*
___ 09:13PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___ Brain w/o contrast
1. Study is mildly degraded by motion. 
2. No evidence of intracranial hemorrhage or acute infarction. 
3. Scattered foci of white matter abnormality.  Differential 
considerations include sequela of prior trauma or infection, 
history of migraine headaches, inflammatory or demyelinating 
process, and microangiopathic changes.  If concern for active 
demyelinating process, consider contrast enhanced brain MRI for 
further evaluation. 

___ H&N
The carotid and vertebral arteries and their major branches are 
patent. 
  
There is paraseptal emphysema and mild bronchial wall thickening 
at the lung apices. 

MR ___ with contrast: 
1. Unremarkable cervical spine MRI. 
 
 
Brief Hospital Course:
MS. ___ is a ___ woman who presented to ___ with 
gait instability and recent "rocking on a boat" sensation for 
the past few days , she presented from her ___ facility where 
she was undergoing treatment for recent heavy Fentanyl Use. The 
patient has a history of HIV, hepatitis C, and non compliance 
with medications. She also has used IV drugs, cocaine, and 
alcohol in the past. Due to concern for stroke, she underwent 
CTA Head and Neck and MRI Brain w/o contrast which showed no 
evidence of cerebrovascular insult. Her C-spine was also imaged 
given her gait instability however this was unremarkable on 
testing.  Upon admission to Neurology service, she was continued 
on her previous Suboxone taper as well as symptomatic treatment 
for Fentanyl withdrawal. She was maintained on CIWA Protocol w/ 
Valium. She was also started on high dose Thiamine, folic acid, 
and multivitamin for nutritional deficiency. 

The patient improved dramatically during her hospitalization and 
given her negative work up, likely she had ataxia from acute 
toxic metabolic causes given her recent heavy drug use along 
with detoxification and the start of multiple medications to aid 
in her detoxification. As her detoxification was complete, the 
patient improved. She worked with ___ and was discharged home 
with a cane and a prescription for a few sessions of outpatient 
___. Second, prior to the patient came to the hospital she had 
developed a radial nerve palsy, and had seen an outpatient 
neurologist. She was given a wrist splint. Here, she was seen by 
OT and given a more supportive, better fitted brace. She will 
follow up with us here in Neurology during ___. Patient 
offered prescription for suboxone (2mg for 2 doses) on discharge 
to fill at pharmacy, however patient stated that she did not 
feel that she needed the medication. 

The patient was safely discharged home. 

Transitions of Care Issues: 
1. Patient to follow up with Neurology at ___ on 
scheduled appointment date
2. Patient to take all home medications as prescribed
3. Patient to go to ___ outpatient for a few sessions
4. Patient to use straight cane to ambulate
5. Patient to use left wrist brace splint prescribed by OT 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Spironolactone 25 mg PO DAILY 
2. Loratadine 10 mg PO DAILY 
3. Estrogens Conjugated 1.25 mg PO DAILY 
4. HydrOXYzine 50 mg PO TID 
5. PARoxetine 40 mg PO DAILY 
6. Atazanavir 300 mg PO DAILY 
7. Tenofovir Disoproxil (Viread) 300 mg PO Q48H 

 
Discharge Medications:
1.  Cyanocobalamin 1 mg PO DAILY 
RX *cyanocobalamin (vitamin B-12) 1,000 mcg 1 tablet(s) by mouth 
Daily Disp #*60 Tablet Refills:*3 
2.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth DAILY Disp #*60 Tablet 
Refills:*3 
3.  Gabapentin 300 mg PO TID 
RX *gabapentin 300 mg 1 capsule(s) by mouth three times a day 
Disp #*180 Capsule Refills:*3 
4.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth DAILY 
Disp #*60 Tablet Refills:*3 
5.  Atazanavir 300 mg PO DAILY  
6.  Estrogens Conjugated 1.25 mg PO DAILY  
7.  HydrOXYzine 50 mg PO TID  
8.  Loratadine 10 mg PO DAILY  
9.  PARoxetine 40 mg PO DAILY  
10.  Spironolactone 25 mg PO DAILY  
11.  Tenofovir Disoproxil (Viread) 300 mg PO Q48H  
12.Outpatient Physical Therapy
Diagnosis: Ataxia (781.2)
Prognosis: Good 
Responsible Provider: Dr. ___
13.straight cane
Diagnosis: Ataxia
Prognosis: Good
___: 13 months
Responsible Provider: Dr. ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ataxia likely secondary to toxic exposure 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (___ 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the General Neurology Service at ___ in 
___ after you had difficulty walking and felt a sensation 
that you were on a boat. You had a variety of head and neck 
imaging that did not reveal any strokes or spinal cord disease 
which is good news. Likely, you had a toxic metabolic reason for 
ataxia (gait instability) that improved with time. We started 
you on multi vitamins, thiamine, and folate which helped with 
your nutritional status. 
Second, you also had a radial nerve compression which causes 
wrist and finger weakness. Likely with time and rest, this will 
improve. Please continue to wear your wrist brace for 
improvement. You will have a script for physical therapy once 
you return home and will also have a cane to help with balance. 
Please follow up with the Neurologist Dr. ___/ Dr. ___ on 
___ at 4:30 ___. 
Please take your other medications at home as prescribed and do 
not miss any doses. 

It was a pleasure to care for you. 

Sincerely, 

Your ___ Neurology Team 
 
Followup Instructions:
___